US05534529
9(ii) 2-t-Butyl-5-(3-cyclohexyl-2-oxopropyl)-1-nitro-benzene
The whole of the 2-t-butyl-5-[3-cyclohexyl-2-(4-methylphenyl)sulfonyl-2-methylthiopropyl]-1-nitrobenzene prepared as described in step (i) above was dissolved in 50 ml of methanol. 5 ml of concentrated aqueous hydrochloric acid were added, and the resulting solution was heated for 2 hours under reflux. At the end of this time, the solvent was removed by distillation under reduced pressure. The resulting residue was dissolved in diethyl ether, and the solution was washed with water, with a saturated aqueous solution of sodium hydrogen carbonate, with water and with a saturated aqueous solution of sodium chloride, in that order. The solvent was then removed by distillation under reduced pressure. The resulting residue was subjected to column chromatography through 150 g of silica gel. Elution with a 1:5 by volume mixture of ethyl acetate and hexane afforded 1.20 g (yield 73%) of the title compound as an oily substance.

reactant | 2-t-butyl-5-[3-cyclohexyl-2-(4-methylphenyl)sulfonyl-2-methylthiopropyl]-1-nitrobenzene | C(C)(C)(C)C1=C(C=C(C=C1)CC(CC1CCCCC1)(SC)S(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-] | C27H37NO4S2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | 2-t-Butyl-5-(3-cyclohexyl-2-oxopropyl)-1-nitro-benzene | 1.20 g, yield 73% | C(C)(C)(C)C1=C(C=C(C=C1)CC(CC1CCCCC1)=O)[N+](=O)[O-] | C19H27NO3
